US06323235B1
Methyl (2-methoxymethoxymethyl-7-methoxybenzofuran-3-yl)acetate
Methyl (2,3-dihydro-2-methoxymethoxymethyl-3-hydroxy-7-methoxybenzofuran-3-yl)acetate (990 mg) was dissolved in THF (25 ml) and formic acid (15 ml), and the obtained solution was stirred at room temperature for 15 hours. The reaction mixture was poured into saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with water and with saturated brine and dried over magnesium sulfate. Magnesium sulfate was removed by filtration and the solvent was evaporated off. The residue was purified by column chromatography (solvent: n-hexane/ethyl acetate=1/1) to obtain the desired compound (789 mg, yield: 75%).

reactant | Methyl (2,3-dihydro-2-methoxymethoxymethyl-3-hydroxy-7-methoxybenzofuran-3-yl)acetate | 990 mg | COCOCC1OC2=C(C1(O)CC(=O)OC)C=CC=C2OC | C15H20O7
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | formic acid | 15 ml | C(=O)O | CH2O2
product | Methyl (2-methoxymethoxymethyl-7-methoxybenzofuran-3-yl)acetate | 789 mg, yield: 75% | COCOCC=1OC2=C(C1CC(=O)OC)C=CC=C2OC | C15H18O6
